US04526719
10-(2,3-Dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-D-isoglutamine benzyl ester (3.42 g, 6 mmol) was dissolved in methanol (12 ml) and, the solution was hydrogenated with palladium black at room temperature for 3 hours. After completion of the reaction, the solvent was distilled off and the residue was dissolved in methanol (25 ml). A solution of ferric chloride (2.43 g, 15 mmol) in water (5 ml) was added and the mixture was stirred at room temperature for 10 minutes. The solvent was then distilled off and the residue was dissolved in ethyl acetate (30 ml), washed with water (15 ml×4) and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was chromatographed on a silica gel column. Elution with chloroform-methanol (9:1, v/v), chloroform-acetone-methanol (10:3:2, v/v) and chloroform-methanol-acetic acid (18:2:1, v/v) in that order gave a crude product. The product was recrystallized from ethanol-ethyl ether-petroleum ether to give 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-D-isoglutamine (1.61 g), melting at 136°-137° C.

reactant | 10-(2,3-Dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-D-isoglutamine benzyl ester | 6 mmol, 3.42 g | C(C1=CC=CC=C1)OC(CC[C@@H](NC(CCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C)=O)C(N)=O)=O | C31H42N2O8
solvent | methanol | 12 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
catalyst | palladium black | [Pd] | Pd
product | 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-D-isoglutamine | 1.61 g | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCC(=O)N[C@H](CCC(=O)O)C(N)=O)=O | C24H36N2O8
